US20010021718A1
tert-Butyl (3R)-3-(3-{[benzyl(methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate
A solution of ethyl 5{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate (Preparation 3) (300 mg, 0.76 mmol) in ethanol (4 ml) was treated with N-benzyl-N-methylamine (0.98 ml, 7.60 mmol) and the resulting mixture was heated at 60° C. under a nitrogen atmosphere for 16 hours. The mixture was cooled and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:ethyl acetate (100:0) gradually changing to dichloromethane:ethyl acetate (95:5) to afford the title compound (296 mg).

reactant | ethyl 5{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate | 0.76 mmol, 300 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)OCC)=O | C21H34N2O5
reactant | N-benzyl-N-methylamine | 7.60 mmol, 0.98 ml | C(C1=CC=CC=C1)NC | C8H11N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | tert-Butyl (3R)-3-(3-{[benzyl(methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate | 296 mg | C(C1=CC=CC=C1)N(C(=O)C1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1)C | C27H39N3O4
